US04507307
3-dimethylamino-6,7-dimethoxyquinoline
A mixture of 113.5 g (2.45 mole) of 99% formic acid and 200 ml of formaldehyde (36.5% w/v) is added, under stirring and by cooling at 15°-20° C., to a solution of 100 g (0.49 mole) of 3-amino-6,7-dimethoxyquinoline (prepared according to J. Med. Chem., 22, 1005, 1979) in 400 ml of N,N-dimethylformamide. The thus obtained mixture is refluxed for 6 hours, then water is added, the pH is adjusted to 10 with 40% NaOH and the mixture is extracted with ethyl acetate.

reactant | formic acid | 2.45 mole, 113.5 g | C(=O)O | CH2O2
reactant | formaldehyde | 200 ml | C=O | CH2O
reactant | 3-amino-6,7-dimethoxyquinoline | 0.49 mole, 100 g | NC=1C=NC2=CC(=C(C=C2C1)OC)OC | C11H12N2O2
reactant | NaOH | [OH-].[Na+]
reactant | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-dimethylamino-6,7-dimethoxyquinoline | CN(C=1C=NC2=CC(=C(C=C2C1)OC)OC)C | C13H16N2O2
